US08530517B2
Linoleoyl chloride (208 mg, 0.696 mmol) was added to a solution of (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid tert-butyl ester (200 mg, 0.464 mmol) in pyridine (2.2 ml). The resulting mixture was heated to 50° C. for 1 h, and then stirred at RT overnight. After addition of EtOAc, the organic phase was washed twice with 1N HCl, water, dried over Na2SO4, filtered and removed under reduced pressure. (E)-Octadeca-9,12-dienoic acid 3-adamantan-1-yl-4′-(2-tert-butoxycarbonylvinyl)biphenyl-4-yl ester was obtained as a colourless oil after purification on silica gel (EtOAc/hexane 5:95) in 65% yield (210 mg).

reactant | Linoleoyl chloride | 0.696 mmol, 208 mg | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)Cl | C18H31ClO
reactant | (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid tert-butyl ester | 0.464 mmol, 200 mg | C(C)(C)(C)OC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2)=O | C29H34O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
product | (E)-Octadeca-9,12-dienoic acid 3-adamantan-1-yl-4′-(2-tert-butoxycarbonylvinyl)biphenyl-4-yl ester | 65% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC(CCCCCCC\C=C\CC=CCCCCC)=O)C2=CC=C(C=C2)C=CC(=O)OC(C)(C)C | C47H64O4
